US05808062
4-Hydroxy-3-[(phenylmethyl)thio]-6-(2,4,6-trimethylphenyl)-2H-pyran-2-one:
The title compound was prepared by Method A using 2',4', 6'-trimethylacetophenone (1.86 g, 11.5 mmol), lithium bis(trimethylsilyl)amide (2.11 g, 12.65 mmol), chlorotrimethylsilane (1.60 mL, 12.65 mmol), THF (127 mL), and diethyl ester of [(phenylmethyl)thio]propanedioic acid (2.95 g, 10.4 mmol). m.p. 134-136° C.; 1H NMR (250 MHz, DMSO-d6) δ 2.11 (s, 6 H), 2.26 (s, 3 H), 3.98 (s, 2 H), 6.03 (s, 1 H), 6.96 (s, 2 H), 7.25 (m, 5 H), 11.85 (bs, 1 H).

reactant | 2',4', 6'-trimethylacetophenone | 11.5 mmol, 1.86 g | CC1=C(C(=CC(=C1)C)C)C(C)=O | C11H14O
reactant | lithium bis(trimethylsilyl)amide | 12.65 mmol, 2.11 g | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | chlorotrimethylsilane | 12.65 mmol, 1.60 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | [(phenylmethyl)thio]propanedioic acid | 10.4 mmol, 2.95 g | C1(=CC=CC=C1)CSC(C(=O)O)C(=O)O | C10H10O4S
solvent | THF | 127 mL | C1CCOC1 | C4H8O
product | 4-Hydroxy-3-[(phenylmethyl)thio]-6-(2,4,6-trimethylphenyl)-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=C(C=C(C=C1C)C)C)=O)SCC1=CC=CC=C1 | C21H20O3S
